US04960897
Preparation of 2-(1-chloromethylvinyl)-6-methylthiopyridine (Compound No. I-11)
A mixture of 14.5 g of 2-isopropenyl-6-methylthiopyridine, 12.9 g of N-chlorosuccinimide and 30 ml of benzene was stirred at 80° C. for 1 hour. After the reaction mixture was cooled to room temperature, n-hexane was added thereto to remove the insoluble matter through filtration. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with n-hexane then n-hexane - ethyl acetate 20:1) to obtain 4.3 g of the objective compound.

reactant | 2-isopropenyl-6-methylthiopyridine | 14.5 g | C(=C)(C)C1=NC(=CC=C1)SC | C9H11NS
reactant | N-chlorosuccinimide | 12.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
product | 2-(1-chloromethylvinyl)-6-methylthiopyridine | 4.3 g | ClCC(=C)C1=NC(=CC=C1)SC | C9H10ClNS
